US07238808B2
1-{4-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-phenyl}-ethylamine
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1) (355 g, 1.0 mmol) and commercially available (rac)-4-bromo-alpha-methylbenzyl amine (0.14 mL, 1.0 mmol) according to general procedure II. Obtained as an orange solid (200 mg, 42%). MS (ISN) 533.1 [(M−H+OAc)−]; mp 156–157° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 355 g | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | (rac)-4-bromo-alpha-methylbenzyl amine | 1.0 mmol, 0.14 mL | BrC1=CC=C(C(C)N)C=C1 | C8H10BrN
product | 1-{4-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-phenyl}-ethylamine | FC(C1=CC(=NC=2N1N=CC2C#CC2=CC=C(C=C2)C(C)N)C2=CC=C(C=C2)C(F)(F)F)(F)F | C24H16F6N4
